US07176322B2
1-Methylbenzimidazole-5-carboxaldehyde
A solution of 5-hydroxymethyl-1-methylbenzimidazole (0.8 g, 4 mmol) in acetone (40 mL) was treated with MnO2 (4 g) and the mixture was stirred for 3 days. The solid was filtered off and the solvent removed under reduced pressure to give 0.63 g of product.

reactant | 5-hydroxymethyl-1-methylbenzimidazole | 4 mmol, 0.8 g | OCC1=CC2=C(N(C=N2)C)C=C1 | C9H10N2O
solvent | acetone | 40 mL | CC(=O)C | C3H6O
catalyst | MnO2 | 4 g | O=[Mn]=O
product | 1-Methylbenzimidazole-5-carboxaldehyde | 0.63 g | CN1C=NC2=C1C=CC(=C2)C=O | C9H8N2O
